US04772614
In a similar manner to tht described in Example 12(a), N,N-dimethylmethanesulphonamide was reacted with n-butyl lithium and the product reacted with ethyl 2-amino-4-chloro-5-methoxybenzoate to give the novel compound 1-(2-amino-4-chloro-5-methoxyphenyl)-2-(N,N-dimethylsulphamoyl)ethanone, m.p. 59°-62°.

reactant | N,N-dimethylmethanesulphonamide | CN(S(=O)(=O)C)C | C3H9NO2S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ethyl 2-amino-4-chloro-5-methoxybenzoate | NC1=C(C(=O)OCC)C=C(C(=C1)Cl)OC | C10H12ClNO3
product | 1-(2-amino-4-chloro-5-methoxyphenyl)-2-(N,N-dimethylsulphamoyl)ethanone | NC1=C(C=C(C(=C1)Cl)OC)C(CS(N(C)C)(=O)=O)=O | C11H15ClN2O4S
